US04983211
2-Propionyl-3-hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)cyclohex-2-en-1-one
To a slurry of 7.5 g (0.0204 mol) of 3-hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)cyclohex-2-en-1-one in 75 mL of benzene was added 2.84 g (0.0218 mol) of propionic anhydride and 5.34 g (0.0437 mol) of 4-dimethylaminopyridine. The slurry was stirred at ambient temperature for 1 hour and heated at reflux for 3 hours. The solution was cooled to room temperature and washed thoroughly with water then with 1N HCl and dried over sodium sulfate. The solvent was removed in vacuo leaving 7.7 g (89.5 percent of theoretical) of the above named compound, as a crude product. The product was further purified by dissolving it in methylene chloride and passing it through a short column of silica gel using methylene chloride as the eluent. The solvent was removed in vacuo leaving 6.2 g (72 percent of theoretical) of the above named compound, as white crystals melting at 154°-156° C.; Rf -0.29 (silica gel, 20:80 acetone:hexane), 1H NMR (CDCl3): δ 1.0 (t, 3H, --CH2CH3), 2.4-3.6 (m, 7H, ring protons and --CH2CH3), 7.05-8.25 (m, 6H, ArH), 18.1 (s, 1H, --OH).

reactant | 3-hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)cyclohex-2-en-1-one | 0.0204 mol, 7.5 g | OC1=CC(CC(C1)C1=CC=C(C=C1)OC1=NC=C(C=C1F)C(F)(F)F)=O | C18H13F4NO3
reactant | propionic anhydride | 0.0218 mol, 2.84 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | acetone | CC(=O)C | C3H6O
reactant | hexane | CCCCCC | C6H14
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 0.0437 mol, 5.34 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Propionyl-3-hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)OC1=NC=C(C=C1F)C(F)(F)F)=O | C21H17F4NO4
